US07105544B2
benzyl 3-[1-(3-{[bis(4-fluorophenyl)acetyl]amino}propyl)-4-piperidinyl]phenylcarbamate
Example 141 was prepared from bis(4-fluorophenyl)acetic acid and benzyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate according to the procedures described in Scheme 9: ESMS m/e: 598.5 (M+H)+.

reactant | bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | benzyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OCC1=CC=CC=C1)=O | C22H29N3O2
product | benzyl 3-[1-(3-{[bis(4-fluorophenyl)acetyl]amino}propyl)-4-piperidinyl]phenylcarbamate | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C1=CC=C(C=C1)F | C36H37F2N3O3
